US06734301B2
A solution of 2,3,4,5-Tetrahydro-1H-[1,4]diazepino[1,7-a]indole (2.40 g, 12.9 mmol) in dichloromethane (64 mL) is treated with di-tertbutyl dicarbonate (3.37 g, 15.5 mmol) quickly evolving carbon dioxide. After 18 hrs, the reaction mixture is concentrated under reduced pressure to give 4.54 g of a crude solid. This material is purified by LC (biotage 90 g column) eluting with 10:10:80 dichloromethane/ethyl acetate/heptane to afford 3.79 g of tert-butyl 1,2,4,5-tetrahydro-3H-[1,4]diazepino[1,7-a]indole-3-carboxylate as a white solid, mp 129-132° C. IR (drift) 2971, 2934, 1686, 1458, 1406, 1366, 1333, 1255, 1242, 1221, 1195, 1179, 949, 798, 734 cm−1.

reactant | 2,3,4,5-Tetrahydro-1H-[1,4]diazepino[1,7-a]indole | 12.9 mmol, 2.40 g | C1CNCCN2C1=CC=1C=CC=CC21 | C12H14N2
reactant | di-tertbutyl dicarbonate | 15.5 mmol, 3.37 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | carbon dioxide | C(=O)=O | CO2
solvent | dichloromethane | 64 mL | ClCCl | CH2Cl2
product | tert-butyl 1,2,4,5-tetrahydro-3H-[1,4]diazepino[1,7-a]indole-3-carboxylate | 3.79 g | C1CN(CCN2C1=CC=1C=CC=CC21)C(=O)OC(C)(C)C | C17H22N2O2
